US06326386B1
3-Chloro-N-(3,5-difluoro-phenyl)-5-hydroxy-N-propyl-benzamide
To a stirred solution of 3-chloro-N-(3,5-difluoro-phenyl)-5-methoxy-N-propyl-benzamide (0.164 g) in anhydrous dichloromethane (5 ml) at −78° C. was added 1M boron tribromide solution in dichloromethane (3.5 ml). The reaction mixture was stirred at this temperature for 15 min. The reaction was allowed to warm to room temperature, and after 3.5 h the reaction was cooled to −78° C. and methanol (6 ml) added. The reaction was allowed to rewarm to room temperature and the solvent removed in vacuo. The residue was purified by flash column chromatography eluting with cyclohexane:ethyl acetate (3:1 v/v) to give the title compound as a colourless oil (0.110 g).

reactant | 3-chloro-N-(3,5-difluoro-phenyl)-5-methoxy-N-propyl-benzamide | 0.164 g | ClC=1C=C(C(=O)N(CCC)C2=CC(=CC(=C2)F)F)C=C(C1)OC | C17H16ClF2NO2
reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
reactant | methanol | 6 ml | CO | CH4O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3.5 ml | ClCCl | CH2Cl2
product | 3-Chloro-N-(3,5-difluoro-phenyl)-5-hydroxy-N-propyl-benzamide | 0.110 g | ClC=1C=C(C(=O)N(CCC)C2=CC(=CC(=C2)F)F)C=C(C1)O | C16H14ClF2NO2
